US07635698B2
1-(5-chloroindan-1-yl)-piperazine
The title compound was prepared in two steps by a standard reductive amination starting with 5-chloro-1-indanone and piperazine carboxylic acid tert -butyl ester followed by removal of the t-Boc group with HCl in 30% overall yield.

reactant | 5-chloro-1-indanone | ClC=1C=C2CCC(C2=CC1)=O | C9H7ClO
reactant | piperazine carboxylic acid tert -butyl ester | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
product | 1-(5-chloroindan-1-yl)-piperazine | ClC=1C=C2CCC(C2=CC1)N1CCNCC1 | C13H17ClN2
